* =============================================================================
* test_invx1_xyce_nmos_caps.cir — ASAP5 NMOS Cg and Cd (nfin=2)
* =============================================================================
* Cg = Cgs + Cgd: AC on gate only, drain DC
* Bias: Vgs=0.35V, Vds=0.35V (saturation)
* Run:  Xyce test_invx1_xyce_nmos_caps.cir
* =============================================================================

.include '/Users/bruce/CLAUDE/asap5/spice/xyce_models/nmos_lvt_tt.pm'

.OPTIONS DEVICE GMIN=1e-12
.OPTIONS NONLIN RELTOL=1e-4 ABSTOL=1e-9
.OPTIONS MEASURE MEASDGT=5

* Gate: DC + AC (excite gate only)
vg  gate   0  dc 0.35 ac 1
* Drain: DC only (no AC)
vd  drain  0  dc 0.35
* Source: ground
vs  source 0  dc 0

mn1 drain gate source source nmos_lvt l=16n nfin=2

.AC DEC 10 1e8 1e11
* Cg_total = |II(vg)| / (2*pi*f)  — includes Cgs + Cgd
.PRINT AC II(vg) IR(vg) II(vd) IR(vd)

.END
